US06759101B2
The solution of 9.8 g of partial-fluoro alcohol in 40 ml of pyridine was cooled down to 0° C. in ice-salt water and 6 g of TsCl was added in small portion. After addition the resulting mixture was stirred at 0° C. for two hours and then placed in freezer (−20° C.) for two days. The reaction mixture was poured into ice water and the product was extracted with ethyl acetate twice. The combined organic phase was washed with brine, 10% HCl and again brine three times, and then dried over MgSO4. After evaporation of solvent, pure partial-fluoro tosylate was obtained in yield of 98%.

reactant | fluoro alcohol | FO | FHO
reactant | TsCl | 6 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | fluoro tosylate | yield of 98% | S(=O)(=O)(OF)C1=CC=C(C)C=C1 | C7H7FO3S
